US05137918
4-Isobutyrylamino N (2'-aminophenyl) benzamide
13.1 g (40 mMole) N-(2'-nitrophenyl)-4-isobutyrylaminobenzamide are hydrogenated under standard conditions in 400 mL tetrahydrofuran in the presence of 10% palladium charcoal. After concentrating the solvent to 120 mL, the precipitated crystals are filtered off with suction. Yield 10.2 g (86% of theory); m.p. 247.6° C.

reactant | N-(2'-nitrophenyl)-4-isobutyrylaminobenzamide | 40 mMole, 13.1 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC(C(C)C)=O)=O | C17H17N3O4
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
catalyst | palladium charcoal | [Pd] | Pd
product | 4-Isobutyrylamino N (2'-aminophenyl) benzamide | C(C(C)C)(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2)N)C=C1 | C17H19N3O2
